US07618961B2
Ethyl (2-{[(2,3,4-trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2,3,4-trichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (51.9 mg) with purity >90%. MS (pos) m/z 429.0, 431.0, 433.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2,3,4-trichlorobenzenesulfonyl chloride | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | Ethyl (2-{[(2,3,4-trichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC1=C(C=CC(=C1Cl)Cl)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H11Cl3N2O4S2
